US08957070B2
N-(1,3-Thiazol-2-yl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (200 mg), 2-aminothiazole (75 mg), ethyldiisopropylamine (0.16 mL), 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (354 mg) and N,N-dimethylformamide (8 mL) was stirred at 60° C. for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate), and the obtained crystals were washed with ethyl acetate-hexane to give the title compound (197 mg, yield 78%) as pale-yellow crystals. melting point 300-302° C. (decomposition).

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 200 mg | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C13H10N2O4S2
reactant | 2-aminothiazole | 75 mg | NC=1SC=CN1 | C3H4N2S
reactant | ethyldiisopropylamine | 0.16 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 354 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-(1,3-Thiazol-2-yl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 197 mg, yield 78% | S1C(=NC=C1)NC(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C16H12N4O3S3
